US04409238
To 2.1 g of α-(3,3-dichloroallyl)isovaleric acid were added 3.0 g of thionyl chloride, as well as 10 g of benzene, and the mixture was refluxed for 5 hours. Then, the reaction mixture was distilled to remove the low-boiling fraction. By this procedure there was obtained α-(3,3-dichloroallyl)isovaleroyl chloride. This chloride was dissolved in 30 g of dry benzene, followed by the addition of 2.0 g of 3-phenoxybenzyl alcohol. Then, 2.0 g of pyridine were added added dropwise and the mixture was stirred at room temperature overnight. The reaction mixture was then diluted with diethyl ether, washed with dilute hydrochloric acid and water, dried over anhydrous magnesium sulfate and distilled to remove the low-boiling fraction. The residual viscous oil was purified by column chromatography to recover 3.1 g of 3-phenoxybenzyl α-(3,3-dichloroallyl)isovalerate (Compound [5]) having the following properties [yield: 79% based on α-(3,3-dichloroallyl)isovaleric acid].

reactant | α-(3,3-dichloroallyl)isovaleric acid | 2.1 g | ClC(=CCC(C(=O)O)C(C)C)Cl | C8H12Cl2O2
reactant | thionyl chloride | 3.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 g | C1=CC=CC=C1 | C6H6
product | α-(3,3-dichloroallyl)isovaleroyl chloride | yield: 79% | ClC(=CCC(C(=O)Cl)C(C)C)Cl | C8H11Cl3O
